US04868331
7-Benzenesulphonylamino-5,6,7,8-tetrahydro-1-hydroxynaphthalene
9.6 g (30 mmol) of 7-benzenesulphonylamino-1-methoxy-5,6,7,8-tetrahydronaphthalene are dissolved in 150 ml of analytical grade CH2Cl2, 40 ml of 1 molar (40 mmol) of boron tribromide solution are added dropwise at room temperature, the reaction mixture is subsequently stirred at room temperature for 1 hour and poured onto ice-water containing a little L-(+)-tartaric acid, the CH2Cl2 is separated off and the mixture is dried over MgSO4 and concentrated in vacuo, crystalline residue.

reactant | 7-benzenesulphonylamino-1-methoxy-5,6,7,8-tetrahydronaphthalene | 30 mmol, 9.6 g | C1(=CC=CC=C1)S(=O)(=O)NC1CCC=2C=CC=C(C2C1)OC | C17H19NO3S
reactant | boron tribromide | 40 mmol, 1 molar | B(Br)(Br)Br | BBr3
reactant | L-(+)-tartaric acid | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Benzenesulphonylamino-5,6,7,8-tetrahydro-1-hydroxynaphthalene | C1(=CC=CC=C1)S(=O)(=O)NC1CCC=2C=CC=C(C2C1)O | C16H17NO3S
